US07414067B2
Step C: N-Cyclohexyl-N-thiazol-2-yl-1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3-acetamide
To a suspension of 2 g (0.02 mol) of N-Cyclohexyl-N-thiazol-2-yl amine in 20 mL of acetonitrile at rt was added 6.1 mL (0.044 mol) of triethylamine and 10.24 g (0.022 mol) of PyBroP [bromo-tris-pyrrolidino-phosphonium hexafluorophosphate (Aldrich or NovaBiochem)]. To the reaction mixture was then added 3.93 g (0.01 mol) of 1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3-acetic acid and the reaction mixture was heated at 100° C. for 4 h. The reaction mixture was then cooled to 0° C. and the white precipitate was isolated by filtration. The filtrate was concentrated to ˜10 mL, recooled to 0° C., refiltered and the filtrate was concentrated to an oil. The residue was dissolved in 100 mL of dichloromethane and the solution was washed twice with 1N HCl, and once with 1N NaHCO3 solution. The organic phase was dried (Na2SO4) filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, 0-50% EtOAc in heptane) to give the title compound. 1H NMR (CDCl3) δ 7.74 (1H, d), 7.66 (2H, d), 7.50 (2H, d), 7.40 (1H, d), 6.95 (1H, bs), 6.82 (1H, d), 6.67 (1H, dd), 4.59 (1H, bt), 3.84 (3H, s), 3.61 (2H, s), 2.22 (3H, s), 0.9-2.0 (10H, m)

reactant | N-Cyclohexyl-N-thiazol-2-yl amine | 0.02 mol, 2 g | C1(CCCCC1)NC=1SC=CN1 | C9H14N2S
reactant | triethylamine | 0.044 mol, 6.1 mL | C(C)N(CC)CC | C6H15N
reactant | PyBroP | 0.022 mol, 10.24 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | 1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3-acetic acid | 0.01 mol, 3.93 g | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)O)C)C=C1 | C19H16ClNO4
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N-Cyclohexyl-N-thiazol-2-yl-1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3-acetamide | C1(CCCCC1)N(C(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)Cl)=O)C)=O)C=1SC=CN1 | C28H28ClN3O3S
